US06506750B1
1-(Piperidin-4-yl)cyclopropanecarboxamide Hydrochloride
3.5 g of pyridin-4-ylacetonitrile and then 2.6 ml of 1,2-dibromoethane are added to a mixture of 2.5 g of sodium amide in 80 ml of DCM and the mixture is left stirring overnight at RT. The reaction mixture is poured into water, extracted with AcOEt, the organic phase washed with water, dried over Na2SO4 and the solvents evaporated off under vacuum. The residue is chromatographed on silica gel, eluting with DCM and then with the DCM/MeOH mixture from (99/1; v/v) to (95/5; v/v). 2.5 g of the expected product are obtained.

reactant | pyridin-4-ylacetonitrile | 3.5 g | N1=CC=C(C=C1)CC#N | C7H6N2
reactant | 1,2-dibromoethane | 2.6 ml | BrCCBr | C2H4Br2
reactant | sodium amide | 2.5 g | [NH2-].[Na+]
reactant | water | O | H2O
reactant | DCM | 80 ml | C(Cl)Cl | CH2Cl2
product | 1-(Piperidin-4-yl)cyclopropanecarboxamide Hydrochloride | 2.5 g | Cl.N1CCC(CC1)C1(CC1)C(=O)N | InChI=1S/C9H16N2O.ClH/c10-8(12)9(3-4-9)7-1-5-11-6-2-7;/h7,11H,1-6H2,(H2,10,12);1H
